US05066658
To a solution of dimethyl malonate (1.7 ml, 14.9 mmol) in DMF (30 ml) at room temperature under nitrogen was added sodium hydride (1.3 g of a 60% dispersion in oil). The mixture was stirred for 20 minutes, and 1,2-bis(chloromethyl)-4,5-dimethoxybenzene (3.5 g, 14.9 mmol) was added. After 16 hours, the mixture was quenched with water and extracted three times with ether. The combined extracts were washed twice with water and dried (McSO4), filtered and evaporated. The residue was dissolved in methylene chloride and filtered through a pad of silica gel. Evaporation gave dimethyl 5,6-dimethoxyindane-2,2-dicarboxylate as a white solid (2.24 g, 55% yield).

reactant | dimethyl malonate | 14.9 mmol, 1.7 ml | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | sodium hydride | [H-].[Na+]
reactant | 1,2-bis(chloromethyl)-4,5-dimethoxybenzene | 14.9 mmol, 3.5 g | ClCC1=C(C=C(C(=C1)OC)OC)CCl | C10H12Cl2O2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | dimethyl 5,6-dimethoxyindane-2,2-dicarboxylate | 2.24 g, 55% yield | COC=1C=C2CC(CC2=CC1OC)(C(=O)OC)C(=O)OC | C15H18O6
